US08138340B2
(rac.)-4-(Thiazol-4-yl)butane-1,2-diol
To a sol. of 4-but-3-enylthiazole (2.07 g, 14.9 mmol) in THF (20 mL), tBuOH (10 mL) and water (5 mL), was added NMO (2.21 g, 16.4 mmol). OsO4 (2.5 wt % in tBuOH, 3.74 mL, 0.298 mmol) was added. The sol. was stirred for 3 h. A sol. of Na2SO3 (1.5 g) in 20 mL water was added. Brine (200 mL) was added and this mixture was extracted with EtOAc (4×). The combined org. phases were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (EtOAc/heptane 3:7→1:1→3:1→EtOAc→MeOH/EtOAc 1:9) yielded the title compound (1.63 g, 63%).

reactant | 4-but-3-enylthiazole | 14.9 mmol, 2.07 g | C(CC=C)C=1N=CSC1 | C7H9NS
reactant | NMO | 16.4 mmol, 2.21 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Na2SO3 | 1.5 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | tBuOH | 10 mL | CC(C)(C)O | C4H10O
solvent | water | 5 mL | O | H2O
solvent | water | 20 mL | O | H2O
solvent | Brine | 200 mL | [Cl-].[Na+].O
catalyst | OsO4 | 0.298 mmol, 3.74 mL | O=[Os](=O)(=O)=O
product | (rac.)-4-(Thiazol-4-yl)butane-1,2-diol | 1.63 g, 63% | S1C=NC(=C1)CCC(CO)O | C7H11NO2S
